US05432177
Step 2: 1-(tert-Butoxycarbonyl)-4-(4-methoxycarbonylphenyl)piperazine
A mixture of 1-(tert-butoxycarbonyl)-4-(4-trifluoromethanesulfonyloxyphenyl)piperazine (1.92 g, 4.68 mmol ), palladium (II) acetate (52.5 mg, 0.23 mmol), 1,1'-bis(diphenylphosphino)ferrocene (325.0 mg, 0.59 mmol), triethylamine (1.3 ml, 9.33 mmol), methanol (8 ml) and dimethylformamide (20 ml) was purged with carbon monoxide for 15 minutes, sealed under a balloon of carbon monoxide and stirred at 60° C. overnight (18 hours). The reaction mixture was allowed to cool, concentrated in vacuo to a small volume and the residue triturated with ethyl acetate. The solid was collected, washed with ethyl acetate and dried to give the title compound (0.659 g, 44%), as a pale cream solid. Evaporation of the ethyl acetate mother liquors and purification of the residue by flash chromatography (eluting with 5% to 10% ethyl acetate in dichloromethane) gave more of the title compound (0.492 g, 33%); δH (CDCl3) 1.49 (9H, s, C(CH3)3 ), 3.31 (4H, m, 2×piperazinyl CH2), 3.60 (4H, m, 2×piperazinyl CH2), 3.87 (3H, s, CO2CH3), 6.89 (2H, m, ArH), and 7.94 (2H, m, ArH).

reactant | 1-(tert-butoxycarbonyl)-4-(4-trifluoromethanesulfonyloxyphenyl)piperazine | 4.68 mmol, 1.92 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C16H21F3N2O5S
reactant | triethylamine | 9.33 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 8 ml | CO | CH4O
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | 0.23 mmol, 52.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1'-bis(diphenylphosphino)ferrocene | 0.59 mmol, 325.0 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 1-(tert-Butoxycarbonyl)-4-(4-methoxycarbonylphenyl)piperazine | 0.659 g, 44% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C(=O)OC | C17H24N2O4
